US08748624B2
STEP B: tert-butyl 3-(5-(2-(((3′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate
tert-butyl 3-(5-(2-(((4-bromophenyl)amino)methyl)phenyl)picolinamido)propanoate (80 mg, 0.16 mmol), (3,4-dichlorophenyl)boronic acid (34 mg, 0.18 mmol), Pd(dppf)Cl2 (13 mg, 0.02 mmol), and K2CO3 (43 mg, 0.31 mmol) were dissolved in 1,4-dioxane (1.2 mL) and water (0.3 mL) and heated to 80° C. After 3 h the resulting mixture was cooled to room temperature, diluted with EtOAc washed with water and brine, dried (Na2SO4), dry-packed onto silica gel and purified via column chromatography to yield the title compound.

reactant | tert-butyl 3-(5-(2-(((4-bromophenyl)amino)methyl)phenyl)picolinamido)propanoate | 0.16 mmol, 80 mg | BrC1=CC=C(C=C1)NCC1=C(C=CC=C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OC(C)(C)C | C26H28BrN3O3
reactant | (3,4-dichlorophenyl)boronic acid | 0.18 mmol, 34 mg | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | K2CO3 | 0.31 mmol, 43 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 0.3 mL | O | H2O
solvent | 1,4-dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.02 mmol, 13 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 3-(5-(2-(((3′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)NCC1=C(C=CC=C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OC(C)(C)C | C32H31Cl2N3O3
